US04341901
To a cold (0°-5° C.) stirred solution of 2-aminobenzotrifluoride (6.44 g., 0.04 mole) and sodium thiocyanate (9.72 g., 0.12 mole) in methanol (100 ml) is added dropwise a solution of bromine (6.6 g., 0.42 mole) in methanol (25 ml) saturated with sodium bromide. The solution is stirred for 20 minutes following the addition of bromine and then poured into water (750 ml) and neutralized with sodium carbonate. The resulting oil is taken up in methylene chloride and dried. Removal of the drying agent and solvent gives 4-thiocyano-2-trifluoromethylaniline as an oil that solidifies on standing (8.4 g., 96 percent yield). A purified sample has a melting point of 52°-55° C. and the following analysis:

reactant | 2-aminobenzotrifluoride | 0.04 mole, 6.44 g | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
reactant | sodium thiocyanate | 0.12 mole, 9.72 g | [S-]C#N.[Na+]
reactant | bromine | 0.42 mole, 6.6 g | BrBr | Br2
reactant | sodium bromide | [Br-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 750 ml | O | H2O
product | 4-thiocyano-2-trifluoromethylaniline | 96 percent yield | S(C#N)C1=CC(=C(N)C=C1)C(F)(F)F | C8H5F3N2S
